US04571345
A solution of 2,2,5,5-tetramethylcyclopentanone (30 g, 0.215 mole) in ether (50 ml) was treated, under nitrogen, with a 3M solution of methyl magnesium bromide in ether (100 ml). The reaction mixture was stirred overnight at room temperature and saturated aqueous ammonium chloride (65 ml) then added dropwise. The mixture was stirred for 10 minutes, the ether solution decanted and the solid residue triturated with ether. The ether extracts were dried (Na2SO4) and evaporated under reduced pressure to give crude 1,2,2,5,5-pentamethylcyclopentanol (30 g) which was used without further purification.

reactant | 2,2,5,5-tetramethylcyclopentanone | 0.215 mole, 30 g | CC1(C(C(CC1)(C)C)=O)C | C9H16O
reactant | methyl magnesium bromide | C[Mg]Br
reactant | ammonium chloride | 65 ml | [Cl-].[NH4+]
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1,2,2,5,5-pentamethylcyclopentanol | 30 g | CC1(C(CCC1(C)C)(C)C)O | C10H20O
